US09353066B2
Ethyl 4-bromobenzoate (73.2 mg, 0.301 mmol) was added to a mixture of N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (100 mg, 0.274 mmol), PdCl2(dppf)-CH2Cl2 adduct (22.4 mg, 0.027 mmol), DMF (5.5 mL), and aqueous K2CO3 (2 M, 0.411 mL, 0.822 mmol) and the reaction mixture was evacuated and back flushed with Argon. The reaction mixture was heated in the microwave reactor for 2 hours at 85° C. The reaction mixture was diluted with water, extracted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) to afford ethyl 3′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-4-carboxylate as an off-white solid. MS ESI calc'd. for C20H17F3N3O2[M+H]+ 388, found 388. 1H NMR (500 MHz, CDCl3): δ 8.67 (d, J=4.9 Hz, 1H); 7.96 (s, 1H); 7.61 (t, J=6.2 Hz, 3H); 7.55 (s, 1H); 7.47-7.40 (m, 1H); 7.40 (d, J=7.9 Hz, 2H); 7.35 (d, J=7.7 Hz, 1H); 7.06 (d, J=4.9 Hz, 1H); 4.22 (q, J=7.1 Hz, 2H); 1.31 (t, J=7.1 Hz, 3H).

reactant | Ethyl 4-bromobenzoate | 0.301 mmol, 73.2 mg | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
reactant | N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 0.274 mmol, 100 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NC1=NC=CC(=N1)C(F)(F)F)C | C17H19BF3N3O2
reactant | K2CO3 | 0.822 mmol, 2 M, 0.411 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) CH2Cl2 | 0.027 mmol, 22.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
product | ethyl 3′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-4-carboxylate | FC(C1=NC(=NC=C1)NC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OCC)(F)F | C20H16F3N3O2
